US07846964B2
A solution of (1aS,5aR)-1-(1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-ethanone (600 mg, 2.72 mmol) and terephthalaldehyde (913 mg, 6.81 mmol) in ethanol (10 mL) and approx. 6 N HCl in isopropanol (6 mL) is stirred at rt for 16 h. Further 6 N HCl in isopropanol (5 mL) is added and stirring of the dark solution is continued at rt for 24 h. The reaction mixture is diluted with diethyl ether (150 mL) and washed with sat. aq. NaHCO3 solution followed by water. The organic phase is dried over MgSO4 and evaporated. The crude product is purified by CC on silica gel eluting with heptane:EA 4:1 to give 4-[3-oxo-3-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-propenyl]-benzaldehyde (336 mg) as a yellow powder; LC-MS: tR=1.14 min, [M+1]+=337.29; 1H NMR (CDCl3): δ 10.04 (s, 1H), 7.94-7.89 (m, 2H), 7.80-7.71 (m, 3H), 7.30 (d, J=15.8 Hz, 1H), 3.14 (dd, J=5.9, 18.8 Hz, 1H), 2.95 (d, J=18.8 Hz, 1H), 2.44 (s, 3H), 2.00-1.91 (m, 2H), 1.15 (s, 3H), 0.75 (s, 3H).

reactant | (1aS,5aR)-1-(1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-ethanone | 2.72 mmol, 600 mg | CC1([C@@H]2[C@H]1CC1=C(SC(=C21)C)C(C)=O)C | C13H16OS
reactant | terephthalaldehyde | 6.81 mmol, 913 mg | C(C1=CC=C(C=O)C=C1)=O | C8H6O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | HCl | approx. 6 N | Cl | ClH
solvent | isopropanol | 6 mL | C(C)(C)O | C3H8O
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
solvent | HCl | 6 N | Cl | ClH
product | 4-[3-oxo-3-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-propenyl]-benzaldehyde | 336 mg | O=C(C=CC1=CC=C(C=O)C=C1)C1=C2C[C@@H]3[C@H](C2=C(S1)C)C3(C)C | C21H20O2S
